US04665187
A solution of 26.3 g of 3-methylsulfonyloxy-methyl-5-phenyl-pyridine (obtainable by reduction of 5-phenyl-pyridine-3-carboxylic acid with LiAlH4 to give 3-hydroxymethyl-5-phenyl-pyridine and mesylation) and 16 g of 4-phenyl-1,2,3,6-tetrahydropyridine in 100 ml of acetonitrile is stirred at 20° for 12 hours and worked up in the customary manner to give 3-(4-phenyl-1,2,3,6-tetrahydropyridylmethyl)-5-phenyl-pyridine ("P"), melting point: 80°-82°. Dihydrochloride, melting point: 218°-220°.

reactant | 3-methylsulfonyloxy-methyl-5-phenyl-pyridine | 26.3 g | CS(=O)(=O)OC=1C(=NC=C(C1)C1=CC=CC=C1)C | C13H13NO3S
reactant | 4-phenyl-1,2,3,6-tetrahydropyridine | 16 g | C1(=CC=CC=C1)C=1CCNCC1 | C11H13N
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-(4-phenyl-1,2,3,6-tetrahydropyridylmethyl)-5-phenyl-pyridine | C1(=CC=CC=C1)C=1CCN(CC1)CC=1C=NC=C(C1)C1=CC=CC=C1 | C23H22N2
